* Z:\mnt\design.r\spice\examples\1528.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 3.3µ
Rload OUT 0 500
XU1 OUT OUT 0 0 IN LT1528
.tran 1
.lib LT1528.lib
.backanno
.end
